US06576656B1
(10) 3-Diethylaminopropyloxy-4-trifluoromethyl-6-(3-hydroxy-1-propynyl)-3-(2-naphthyl)oxindole
The title compound (3.7 mg, 34%) was prepared from 3-diethylaminopropyloxy-4-trifluoromethyl-6-iodo-3-(2-naphthyl)oxindole (12.4 mg, 0.0213 mmol) and 1-propyn-3-ol by the procedure similar to that described in Reference Example 21.

reactant | 3-diethylaminopropyloxy-4-trifluoromethyl-6-iodo-3-(2-naphthyl)oxindole | 0.0213 mmol, 12.4 mg | C(C)N(CCCON1C(C(C2=C(C=C(C=C12)I)C(F)(F)F)C1=CC2=CC=CC=C2C=C1)=O)CC | C26H26F3IN2O2
reactant | 1-propyn-3-ol | C#CCO | C3H4O
product | 3-Diethylaminopropyloxy-4-trifluoromethyl-6-(3-hydroxy-1-propynyl)-3-(2-naphthyl)oxindole | 3.7 mg, 34% | C(C)N(CCCON1C(C(C2=C(C=C(C=C12)C#CCO)C(F)(F)F)C1=CC2=CC=CC=C2C=C1)=O)CC | C29H29F3N2O3
